US05663440
In a 1-liter three-necked flask equipped with a stirring device, a thermometer and a nitrogen substituting device, 14.4 g of 1,1-bis(4-(4-nitrobenzoyl)phenyl)heptane, 60 milliliters of 1,2-dichloroethane and 19.4 g of boron trifluoride diethyl ether complex were introduced and heated at reflux. 14.4 g of triethylsilane was added dropwise for 15 minutes with maintaining the temperature. After the end of the reaction was confirmed by a liquid chromatography, the reaction solution was poured in water and extracted with chloroform. The solution was washed with an aqueous solution of sodium hydrogencarbonate and water, and then dried with anhydrous sodium sulfate. After removing off the solvent by a rotary evaporator, the solution was dissolved in toluene and subjected to a separating operation by a column chromatography with silica gel. After removing off the solvent again, 14.08 g of 1,1-bis(4-(4-nitrobenzyl)phenyl) heptane was obtained as red oil.

reactant | 1,1-bis(4-(4-nitrobenzoyl)phenyl)heptane | 14.4 g | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)C(CCCCCC)C2=CC=C(C=C2)C(C2=CC=C(C=C2)[N+](=O)[O-])=O)C=C1 | C33H30N2O6
reactant | 1,2-dichloroethane | 60 milliliters | ClCCCl | C2H4Cl2
reactant | triethylsilane | 14.4 g | C(C)[SiH](CC)CC | C6H16Si
solvent | water | O | H2O
product | 1,1-bis(4-(4-nitrobenzyl)phenyl) heptane | 14.08 g | [N+](=O)([O-])C1=CC=C(CC2=CC=C(C=C2)C(CCCCCC)C2=CC=C(C=C2)CC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C33H34N2O4
